US05300514
1-[(4-Chlorophenyl)oxycarbonyl]-4,5-diphenyl-3-pyrazolidinone [Method F]
A solution of 4,5-diphenyl-3-pyrazolidinone (1.25 g, 5.26 mmol) in 50 mL CHCl3 was treated with a solution of 4-chlorophenylchloroformate (1.0 g, 5.26 mmol) in 10 mL CHCl3 and stirred overnight. The solvent was removed in vacuo and the residue recrystallized from EtOAc:hexane to give 1.6 g (58%) white solid: mp 175°-7° C.

reactant | 4,5-diphenyl-3-pyrazolidinone | 5.26 mmol, 1.25 g | C1(=CC=CC=C1)C1C(NNC1C1=CC=CC=C1)=O | C15H14N2O
reactant | 4-chlorophenylchloroformate | 5.26 mmol, 1.0 g | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[(4-Chlorophenyl)oxycarbonyl]-4,5-diphenyl-3-pyrazolidinone | 1.6 g, 58% | ClC1=CC=C(C=C1)OC(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H17ClN2O3
